US07713979B2
Dissolve 2,4-dichloro-phenol (30 g, 184 mmol) and cool to 0° C. Add imidazole (28 g, 405 mmol) followed by t-butyldimethylsilyl chloride (31 g, 202 mmol). Warm reaction mixture to room temperature, and stir for 20 minutes. Pour reaction mixture into water and extract with ether. Separate layers and wash organics with water, 2× brine, dry over sodium sulfate, filter and concentrate to yield 48.4 g (95%) of tert-butyl-(2,4-dichloro-phenoxy)-dimethyl-silane.

reactant | 2,4-dichloro-phenol | 184 mmol, 30 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | imidazole | 405 mmol, 28 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 202 mmol, 31 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | water | O | H2O
product | tert-butyl-(2,4-dichloro-phenoxy)-dimethyl-silane | 48.4 g, 95% | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C=C1)Cl)Cl | C12H18Cl2OSi
